US03991072
To a stirred mixture of 104.1 parts of (+)-2-[N-(1-phenylethyl)amino]acetonitrile and 1440 parts of dimethylbenzene are added dropwise 66 parts of formic acid (slightly exothermic reaction). Upon completion, stirring is continued for 3 hours at reflux temperature (water-separator). The reaction mixture is cooled to about 60° C. and washed successively with water, a sodium bicarbonate solution, a diluted sodium hydroxide solution and again twice with water. The organic phase is separated, dried, filtered and evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off, washed with 2,2'-oxybispropane and dried, yielding (+)-N-(cyanomethyl)-N-(1-phenylethyl)-formamide (41%); m.p. 78.9° C.; [α] = +60.90° (1% CH3OH).

reactant | (+)-2-[N-(1-phenylethyl)amino]acetonitrile | C1(=CC=CC=C1)C(C)NCC#N | C10H12N2
reactant | dimethylbenzene | CC1=C(C=CC=C1)C | C8H10
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | (+)-N-(cyanomethyl)-N-(1-phenylethyl)-formamide | 41% | C(#N)CN(C=O)C(C)C1=CC=CC=C1 | C11H12N2O
